US05280032
A mixture of 1.6 g of 3-pyridinemethanol, 1.7 g of potassium tert-butoxide and 23 ml of dimethyl sulfoxide was heated to 80° C. Thereto was added 2.4 g of 2-(benzo[b]furan-5-yl)oxirane. The resulting mixture was stirred at 85°-90° C. for 15 minutes. The reaction mixture was added to a mixture of 50 ml of ice water and 50 ml of ethyl acetate. The resulting mixture was adjusted to pH 1 with 6N hydrochloric acid. The aqueous layer was separated and 30 ml of ethyl acetate was added thereto. The resulting mixture was adjusted to pH 9.5 with potassium carbonate. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: chloroform/ethanol=50/1) to obtain 0.56 g of 1-(benzo[b]furan-5-yl)-2-(pyridin- 3-ylmethoxy)ethanol (compound No. 339).

reactant | 3-pyridinemethanol | 1.6 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | potassium tert-butoxide | 1.7 g | CC(C)([O-])C.[K+]
reactant | 2-(benzo[b]furan-5-yl)oxirane | 2.4 g | O1C2=C(C=C1)C=C(C=C2)C2OC2 | C10H8O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 23 ml | CS(=O)C | C2H6OS
product | 1-(benzo[b]furan-5-yl)-2-(pyridin- 3-ylmethoxy)ethanol | 0.56 g | O1C2=C(C=C1)C=C(C=C2)C(COCC=2C=NC=CC2)O | C16H15NO3
